US07902193B2
(ii) 2-{3-[2-Fluoro-5-(4-oxo-3,4-dihydro-phthalazin-1-ylmethyl)-phenyl]-5,5-dimethyl-2,4-dioxo-imidazolidin-1-yl}-acetamide (40d)
{3-[2-Fluoro-5-(4-oxo-3,4-dihydro-phthalazin-1-ylmethyl)-phenyl]-5,5-dimethyl-2,4-dioxo-imidazolidin-1-yl}-acetic acid methyl ester (0.025 g, 0.055 mmol) was dissolved in solution of 7N ammonia in methanol (3 ml, 21 mmol) and heated in a sealed tube at 60° C. for 18 hours. The resultant solution was concentrated in vacuo and submitted for preparative HPLC purification.

reactant | {3-[2-Fluoro-5-(4-oxo-3,4-dihydro-phthalazin-1-ylmethyl)-phenyl]-5,5-dimethyl-2,4-dioxo-imidazolidin-1-yl}-acetic acid methyl ester | 0.055 mmol, 0.025 g | COC(CN1C(N(C(C1(C)C)=O)C1=C(C=CC(=C1)CC1=NNC(C2=CC=CC=C12)=O)F)=O)=O | C23H21FN4O5
reactant | methanol | 21 mmol, 3 ml | CO | CH4O
reactant | ammonia | 7N | N | H3N
product | 2-{3-[2-Fluoro-5-(4-oxo-3,4-dihydro-phthalazin-1-ylmethyl)-phenyl]-5,5-dimethyl-2,4-dioxo-imidazolidin-1-yl}-acetamide | FC1=C(C=C(C=C1)CC1=NNC(C2=CC=CC=C12)=O)N1C(N(C(C1=O)(C)C)CC(=O)N)=O | C22H20FN5O4
